US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dichloro-4-bromothiophene-3-sulfonamide was prepared in the same manner as described in Example 1 from 5-amino-4-bromo-3-methylisoxazole and 4-bromo-2,5-dichlorothiophene-3-sulfonyl chloride in 58% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 146°-149° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-bromo-2,5-dichlorothiophene-3-sulfonyl chloride | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)Cl | C4BrCl3O2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dichloro-4-bromothiophene-3-sulfonamide | 58% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC(=C1Br)Cl)Cl)C | C8H4Br2Cl2N2O3S2
